US08389511B2
(3R,4S)-1-(tert-Butoxycarbonyl)-4-(2,4,5-trifluorophenyl)piperidine-3-carboxylic acid
1-tert-Butyl 3-ethyl 4-(2,4,5-trifluorophenyl)-5,6-dihydropyridine-1,3(2H)-dicarboxylate (9.98 g) was dissolved in methanol (100 ml), and thereto was added magnesium (6.29 g) under ice-cooling, and the mixture was stirred at room temperature for 2 hours. In an ice-bath, to the reaction mixture was added a saturated aqueous ammonium chloride solution, and the mixture was stirred for 30 minutes. The reaction mixture was extracted with ethyl acetate, and the organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The obtained residue was dissolved in ethanol (80 ml), and thereto was added sodium ethoxide (20% ethanol solution, 10.62 g) at room temperature, and the mixture was refluxed for 4 hours. The reaction mixture was cooled, and concentrated under reduced pressure. To the residue was added a 5% aqueous sodium hydrogen sulfate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was dissolved in tetrahydrofuran (40 ml) and ethanol (40 ml), and thereto was added 1M aqueous sodium hydroxide solution (41.6 ml) at room temperature, and the mixture was stirred at 60° C. for 3 hours. The mixture was cooled, and the reaction mixture was concentrated under reduced pressure. To the residue was added a 5% aqueous sodium hydrogen sulfate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered and concentrated under reduced pressure to give the title compound (7.89 g).

reactant | 1-tert-Butyl 3-ethyl 4-(2,4,5-trifluorophenyl)-5,6-dihydropyridine-1,3(2H)-dicarboxylate | 9.98 g | FC1=C(C=C(C(=C1)F)F)C1=C(CN(CC1)C(=O)OC(C)(C)C)C(=O)OCC | C19H22F3NO4
reactant | magnesium | 6.29 g | [Mg] | Mg
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 100 ml | CO | CH4O
product | (3R,4S)-1-(tert-Butoxycarbonyl)-4-(2,4,5-trifluorophenyl)piperidine-3-carboxylic acid | 7.89 g | C(C)(C)(C)OC(=O)N1C[C@@H]([C@H](CC1)C1=C(C=C(C(=C1)F)F)F)C(=O)O | C17H20F3NO4
